US09328082B2
(3R,5S)-5-methoxy-4-((2R,3R)-2-methyl-3-(3-methylbut-2-enyl)oxiran-2-yl)-1-oxaspiro[2.5]octan-6-ol
The mixture of fumagillin DCHA salt (10 g, 0.022 mol), 800 mL of 0.1 N NaOH solution in H2O, and 800 mL of Et2O was stirred at RT for 3 h. LC/Mass showed that the fumagillin had been consumed. The mixture was treated with 400 mL of Ether and the layers were separated. The water layer was extracted with ether (3×500 mL) and the combined organic layer was dried over anhydrous Na2SO4 and concentrated under reduced pressure. The crude product was purified on a Biotage (EtOAc/hexanes) to provide ANT-2970 (4.1 g, 6.16 g theoretical, 66%). 1H NMR (300 MHz, CDCl3,) δ 1.21 (s, 3H), 1.65 (s, 3H), 1.75 (s, 3H), 1.90-2.05 (m, 3H), 2.18-2.26 (m, 2H), 2.34-2.39 (m, 2H), 2.55 (d, 1H), 2.59 (t, 1H), 2.92 (m, 1H), 3.48 (s, 3H), 3.62 (dt, 1H), 4.38 (m, 1H), 5.21 (m, 1H); LC-MS 283 (M+1).

reactant | fumagillin DCHA | 0.022 mol, 10 g | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)OC(=O)/C=C/C=C/C=C/C=C/C(=O)O)OC)C.C1CCC(CC1)NC2CCCCC2
reactant | NaOH | 0.1 N, 800 mL | [OH-].[Na+]
reactant | Et2O | 800 mL | CCOCC | C4H10O
reactant | fumagillin | CC(=CC[C@@H]1[C@@](O1)(C)[C@H]2[C@@H]([C@@H](CC[C@]23CO3)OC(=O)/C=C/C=C/C=C/C=C/C(=O)O)OC)C | C26H34O7
solvent | H2O | O | H2O
product | (3R,5S)-5-methoxy-4-((2R,3R)-2-methyl-3-(3-methylbut-2-enyl)oxiran-2-yl)-1-oxaspiro[2.5]octan-6-ol | CO[C@H]1C([C@@]2(CO2)CCC1O)[C@]1(O[C@@H]1CC=C(C)C)C | C16H26O4
